US07491720B2
(4) Synthesis of 6-((4-(3-chloro-2-fluorobenzoyl)piperazin-1-yl)methyl)-N-1H-pyrazol-3-ylpyridin-2-amine
18 mg of (6-((4-(3-Chloro-2-fluorobenzoyl)piperazin-1-yl)methyl)-N-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)pyridin-2-amine was dissolved in 900 μl of trifluoroacetate and 100 μl of water followed by stirring at room temperature for 5 hours. The reaction solution was concentrated in vacuo, diluted with ethyl acetate, and then washed with saturated sodium bicarbonate, water and brine. The resulting organic layer was dried over magnesium sulfate and filtered, and the filtrate was concentrated. The resulting residue was purified by a silica gel column chromatography (eluent: chloroform to chloroform/methanol=10/1) to give the title compound.

reactant | 6-((4-(3-Chloro-2-fluorobenzoyl)piperazin-1-yl)methyl)-N-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazol-3-yl)pyridin-2-amine | ClC=1C(=C(C(=O)N2CCN(CC2)CC2=CC=CC(=N2)NC2=NN(C=C2)COCC[Si](C)(C)C)C=CC1)F | C26H34ClFN6O2Si
reactant | water | 100 μl | O | H2O
solvent | trifluoroacetate | 900 μl | FC(C(=O)[O-])(F)F
product | 6-((4-(3-chloro-2-fluorobenzoyl)piperazin-1-yl)methyl)-N-1H-pyrazol-3-ylpyridin-2-amine | ClC=1C(=C(C(=O)N2CCN(CC2)CC2=CC=CC(=N2)NC2=NNC=C2)C=CC1)F | C20H20ClFN6O
